US06169090A
2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2,4,6-trifluorophenyl)amide
Starting from 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester (0.20 g) and 2,4,6-trifluoroaniline (0.18 g). Purification by column chromatography on silica with 30% ethyl acetate in hexane followed by trituration with ether gave the title compound (0.068 g) as a white solid.

reactant | 2-ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid 4-nitrophenyl ester | 0.20 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H14N2O6
reactant | 2,4,6-trifluoroaniline | 0.18 g | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
product | 2-Ethyl-7-methoxyfuro[2,3-c]pyridine-4-carboxylic acid (2,4,6-trifluorophenyl)amide | 0.068 g | FC1=C(C(=CC(=C1)F)F)NC(=O)C=1C2=C(C(=NC1)OC)OC(=C2)CC | C17H13F3N2O3
